US07205306B2
5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-cyclobutylpropyl)-6-methyl-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 536 using 1-(1-cyclobutylpropyl)-3,5-dichloro-6-methyl-2(1H)-pyrazinone and 5-methoxy-7-methylindoline hydrochloride as the starting materials to give a yellow amorphous solid; 1H NMR (300 MHz, CDCl3) δ 6.73 (s, 2H), 4.28 (t, J=8.4 Hz, 2H), 4.04–3.97 (m, 1H), 3.79 (s, 3H), 3.62–3.55 (m, 1H), 3.10 (t, J=7.7 Hz, 2H), 2.50 (s, 3H), 2.42–2.35 (m, 1H), 2.22–2.10 (m, 1H), 1.90–1.50 (m, 5H), 1.58–1.50 (m, 1H), 0.86 (t, J=7.3 Hz, 3H); HRMS (ESI) m/z 422.1420 [(M+H)+, calcd for C21H26N3O2Cl2 422.1402].

reactant | 1-(1-cyclobutylpropyl)-3,5-dichloro-6-methyl-2(1H)-pyrazinone | C1(CCC1)C(CC)N1C(C(=NC(=C1C)Cl)Cl)=O | C12H16Cl2N2O
reactant | 5-methoxy-7-methylindoline hydrochloride | Cl.COC=1C=C2CCNC2=C(C1)C
product | 5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-cyclobutylpropyl)-6-methyl-2(1H)-pyrazinone | ClC=1N=C(C(N(C1C)C(CC)C1CCC1)=O)N1CCC2=CC(=CC(=C12)Cl)OC | C21H25Cl2N3O2
